US06057364
Under a N2 atmosphere was added 22.8 g (100 mmol) of methyl-3-fluoro-5-hydroxyadamantane-1-carboxylate to 400 ml of dry chloroform and the resultant solution was cooled to -50° C. To this solution was added drop-wise 13.1 ml (100 mmol) of DAST. The suspension was allowed to warm to ambient temperature and then heated to reflux for 1.5 hours. The resultant solution was cooled and treated with water (400 ml). The organic layer was separated, and the aqueous layer was washed again with chloroform (50 ml). The organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo to afford 23.2 g of crude product. Under a N2 atmosphere was added to 75 ml of methanol, 50 ml of THF, 250 ml of water, 22.0 g (95.6 mmol) of methyl 3,5-difluoroadamantane-1-carboxylate generated in this step, followed by 8.0 g (200 mmol) of NaOH pellets. The solution was allowed to stir overnight. The aqueous solution was extracted with ethyl acetate. The aqueous layer was acidified to a pH of 1.0 with 1N HCl and the resultant solution was extracted with ethyl acetate (200 ml), and this organic extract was washed with water, brine, dried over magnesium sulfate, filtered and concentrated in vacuo to afford 19.8 g (96%) of 3,5-difluoroadamantane-1-carboxylic acid. An analytical sample of this compound was obtained following an EtOAc/Hexane recrystallization: mp 162-164° C.; 1H NMR (CDCl3) 3C NMR (DMSO) 30.16, 35.67, 39.55, 42.09, 44.92, 46.92, 93.29. Crystals from the recrystallization were suitable for X-ray analysis. Anal. Calc'd for C11H14O2F2 : C, 61.10; H, 6.53; F, 17.57; Found: C, 61.00; H, 6.57; F, 17.32.

reactant | methyl-3-fluoro-5-hydroxyadamantane-1-carboxylate | 100 mmol, 22.8 g | COC(=O)C12CC3(CC(CC(C1)C3)(C2)O)F | C12H17FO3
reactant | DAST | 100 mmol, 13.1 ml | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | methyl 3,5-difluoroadamantane-1-carboxylate | 95.6 mmol, 22.0 g | FC12CC3(CC(CC(C1)(C3)F)C2)C(=O)OC | C12H16F2O2
reactant | NaOH | 200 mmol, 8.0 g | [OH-].[Na+]
solvent | water | 250 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | methanol | 75 ml | CO | CH4O
solvent | water | 400 ml | O | H2O
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,5-difluoroadamantane-1-carboxylic acid | 19.8 g, 96% | FC12CC3(CC(CC(C1)(C3)F)C2)C(=O)O | C11H14F2O2
